US07557131B2
Preparation 1: Azetidin-3-yl methanesulfonate hydrochloride
A mixture of 1-(diphenylmethyl)azetidin-3-yl methanesulfonate (WO 97/25322, p64), (20 g, 63 mmol) and chloroethylchloroformate (10 mL, 95 mmol) in dichloromethane (100 mL) was heated under reflux for 2.5 hours. The reaction mixture was then concentrated in vacuo and the residue was re-dissolved in methanol (100 mL) and heated under reflux for a further 2.5 hours. The mixture was then cooled to room temperature and concentrated in vacuo to afford the title compound as a white solid in quantitative yield, 9.6 g. 1H NMR(400 MHz, DMSO-d6) δ: 3.28(s, 3H), 4.06(m, 2H), 4.31(m, 2H), 5.34(m, 1H)

reactant | 1-(diphenylmethyl)azetidin-3-yl methanesulfonate | 63 mmol, 20 g | CS(=O)(=O)OC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19NO3S
reactant | chloroethylchloroformate | 95 mmol, 10 mL | ClCCOC(=O)Cl | C3H4Cl2O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Azetidin-3-yl methanesulfonate hydrochloride | quantitative yield | Cl.CS(=O)(=O)OC1CNC1 | InChI=1S/C4H9NO3S.ClH/c1-9(6,7)8-4-2-5-3-4;/h4-5H,2-3H2,1H3;1H
